US04663319
1-(p-Nitrobenzyl)-3-(1,3-dithiol-2-ylidene)-2,4-dioxopiperidine (100 mg) is dissolved in ethanol (20 ml), and thereto is added 10% Pd/C (100 mg). The mixture is subjected to catalytic reduction under atmospheric pressure. The mixture is filtered to remove the catalyst. The filtrate is distilled to remove the solvent to give 1-(p-aminobenzyl)-3-(1,3-dithiol-2-ylidene)-2,4-dioxopiperidine (92 mg, quantitative) as crystals.

reactant | 1-(p-Nitrobenzyl)-3-(1,3-dithiol-2-ylidene)-2,4-dioxopiperidine | 100 mg | [N+](=O)([O-])C1=CC=C(CN2C(C(C(CC2)=O)=C2SC=CS2)=O)C=C1 | C15H12N2O4S2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 1-(p-aminobenzyl)-3-(1,3-dithiol-2-ylidene)-2,4-dioxopiperidine | 92 mg | NC1=CC=C(CN2C(C(C(CC2)=O)=C2SC=CS2)=O)C=C1 | C15H14N2O2S2
